US07446204B2
Ammonium formate (2 g, 31 mmol) was added to a solution of ethyl 2-[benzylpropylamino]acetate (1.05 g, 4.47 mmol) in ethanol (15 mL) and acetic acid (1 mL). The reaction vessel was then carefully flushed with nitrogen gas. Palladium on carbon (10%, 300 mg) was added in one portion, and the resulting mixture was heated at 80° C., under nitrogen for 3 h. The reaction mixture was allowed to cool to room temperature, and filtered through celite filteraid. The filtrate was concentrated in vacuo, (azeotroping with toluene (20 mL) to remove the acetic acid), to give ethyl 2-(propylamino)acetate as a yellow oil (quantitative crude yield). 1H NMR (CDCl3) δ 4.14 (q, J=7.1 Hz, 2H), 3.30 (s, 2H), 2.60 (dd, J=7.4 Hz, 2H), 1.50 (m, 2H), 1.26 (t, J=7.2 Hz, 3H), 0.89 (t, J=7.4 Hz, 3H).

reactant | Ammonium formate | 31 mmol, 2 g | C(=O)[O-].[NH4+]
reactant | ethyl 2-[benzylpropylamino]acetate | 4.47 mmol, 1.05 g | C(C1=CC=CC=C1)CCCNCC(=O)OCC | C14H21NO2
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | ethyl 2-(propylamino)acetate | C(CC)NCC(=O)OCC | C7H15NO2
